US03985885
A. 6-Methoxy-2-(2-pyridinyl)benzothiazole
A mixture of 2-amino-5-methoxy-benzenethiol, 25 g (0.16 mole) and nicotinic acid, 24.6 g (0.2 mole) is dissolved in 250 cc of CHCl3 containing 160 g of PPE. The mixture is refluxed overnight. The mixture is concentrated to dryness and the residue poured on ice and the pH of the solution is adjusted to 10 using 50% NaOH solution. The precipitate is filtered, washed with water and dried to yield 34.5 g of the title compound.

reactant | 2-amino-5-methoxy-benzenethiol | NC1=C(C=C(C=C1)OC)S | C7H9NOS
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | CHCl3 | 250 cc, 160 g | C(Cl)(Cl)Cl | CHCl3
product | 6-Methoxy-2-(2-pyridinyl)benzothiazole | 34.5 g | COC1=CC2=C(N=C(S2)C2=NC=CC=C2)C=C1 | C13H10N2OS
